US05135953
Into a solution containing 3.0 grams (9.0 mmol) of 3-chloro-4-(4-chloro-1-naphthoxy)-2,5-dimethylaniline prepared in Part B of Example I in 25 milliliters of toluene which solution was warmed to a temperature of 50° C. and placed under a nitrogen atmosphere was slowly added a solution containing 2.5 grams (13.5 mmol) of 2,6-difluorobenzoyl isocyanate in 5 milliters of toluene. After stirring for one hour at a temperature of 50° C., the reaction mixture was cooled to room temperature, placed in an ice bath, and filtered through a Buchner funnel. The collected solid was dried under a vacuum at a temperature of 50° C. to afford 2.89 grams of 1-[3-chloro-4-(4-chloro-1-naphthoxy)-2,5-dimethylphenyl]-3-(2,6-difluorobenzoyl)urea as a white powder havin a melting point of 187° C. Elemental analysis of the white powder indicated the following:

reactant | 3-chloro-4-(4-chloro-1-naphthoxy)-2,5-dimethylaniline | 9.0 mmol, 3.0 grams | ClC=1C(=C(N)C=C(C1OC1=CC=C(C2=CC=CC=C12)Cl)C)C | C18H15Cl2NO
reactant | 2,6-difluorobenzoyl isocyanate | 13.5 mmol, 2.5 grams | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | toluene | 25 milliliters | C1(=CC=CC=C1)C | C7H8
product | 1-[3-chloro-4-(4-chloro-1-naphthoxy)-2,5-dimethylphenyl]-3-(2,6-difluorobenzoyl)urea | 2.89 grams | ClC=1C(=C(C=C(C1OC1=CC=C(C2=CC=CC=C12)Cl)C)NC(=O)NC(C1=C(C=CC=C1F)F)=O)C | C26H18Cl2F2N2O3
